US05147863
4-Phenyl-1-(phenylmethyl)-1H-imidazole-2-carbonitrile
Under nitrogen, 2.0 g (0.0325 ml) cyanogen chloride was added to a 5° C. solution of 6.0 g (0.0256 mol) 4-phenyl-1-(phenylmethyl)-1H-imidazole in 100 ml acetonitrile/10 ml DMF. After 18 hour, the dark yellow reaction was warmed at 70° C. for 7 hours. After cooling, 4.5 ml (0.0325 mol) triethylamine was added and the reaction stirred overnight. The reaction was quenched with 300 ml saturated NaHCO3 and extracted into ethyl acetate (3×150 ml). After drying and concentration, a tan oil was obtained. Flash chromatography (500 ml silica gel, EtOAc) gave 3.7 g recovered starting material and 2.26 g of the desired product (84% based on recovered starting material) mp 95°-96° C. (cyclohexane).

reactant | cyanogen chloride | 0.0325 ml, 2.0 g | N#CCl | CClN
reactant | 4-phenyl-1-(phenylmethyl)-1H-imidazole | 0.0256 mol, 6.0 g | C1(=CC=CC=C1)C=1N=CN(C1)CC1=CC=CC=C1 | C16H14N2
reactant | triethylamine | 0.0325 mol, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-Phenyl-1-(phenylmethyl)-1H-imidazole-2-carbonitrile | C1(=CC=CC=C1)C=1N=C(N(C1)CC1=CC=CC=C1)C#N | C17H13N3
